US09227971B2
Step 1: 1-(5-bromopyridin-2-yl)cyclopropanamine
To a mixture of 5-bromopicolinonitrile (1.82 g, 10.0 mmol), tetrapropoxytitanium (3.26 ml, 11.0 mmol) and boron trifluoride diethyl etherate (2.51 ml 20.0 mmol) at 0° C. was added ethylmagnesium bromide (1.0M in ether, 22 ml, 22.0 mmol) The resulting solution was allowed to stir at it for 3 h. Ammonium chloride solution was added and the solution was extracted with ethyl acetate for three times. The organic layers were collected and washed with brine and dried over sodium sulfate. After concentration the crude product was purified by SiO2 column.

reactant | 5-bromopicolinonitrile | 10.0 mmol, 1.82 g | BrC=1C=CC(=NC1)C#N | C6H3BrN2
reactant | boron trifluoride diethyl etherate | 20.0 mmol, 2.51 ml | B(F)(F)F.CCOCC
reactant | ethylmagnesium bromide | 22.0 mmol, 1.0M, 22 ml | C(C)[Mg]Br
reactant | Ammonium chloride | [Cl-].[NH4+]
catalyst | tetrapropoxytitanium | 11.0 mmol, 3.26 ml | C(CC)O[Ti](OCCC)(OCCC)OCCC
product | 1-(5-bromopyridin-2-yl)cyclopropanamine | BrC=1C=CC(=NC1)C1(CC1)N | C8H9BrN2
